US06660751B1
3,4-Dichlorobenzenesulfonic Acid 2-((3,4-Dichlorobenzenesulfonyl)-methyl-amino)-ethyl Ester (D3)
The title compound was prepared from 2-methylamino ethanol and 3,4 dichlorophenyl sulfonylchloride using the method described in Description 1.

reactant | 2-methylamino ethanol | CNCCO | C3H9NO
reactant | 3,4 dichlorophenyl sulfonylchloride | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 3,4-Dichlorobenzenesulfonic Acid 2-((3,4-Dichlorobenzenesulfonyl)-methyl-amino)-ethyl Ester | ClC=1C=C(C=CC1Cl)S(=O)(=O)N(CCOS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)C | C15H13Cl4NO5S2
